Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
___
 
Attending: ___
 
Chief Complaint:
Exterional chest pain

 
Major Surgical or Invasive Procedure:
___
Coronary artery bypass graft times 5, left internal mammary 
artery to left anterior descending artery and saphenous vein 
grafts to diagonal 1, diagonal 2, obtuse marginal 1 and the 
posterior descending arteries

 
History of Present Illness:
___ year old male has new onset exertional chest pain. It occurs 
when he walks for ___ minutes and stops when he rests. He 
denies any symptoms occurring
at rest. He was referred for a stress test, which was done 
___ and was abnormal. He then referred for cardiac 
catheterization. He was found to have multivessel diseaes and is 
now being referred to cardiac surgery for revascularization. 
 
Past Medical History:
Hypertension
hyperlipidemia 
irritable bowel syndrome
allergic rhinitis
kidney stones s/p lithotripsy
BPH
prostate nodule
snoring
h/o Shingles
? Gout
Past Surgical History:
bilateral hernia repairs
polypectomy  

 
Social History:
___
Family History:
non contributory

 
Physical Exam:
Pulse:53 Resp:18  O2 sat:100/RA 
B/P  Right:146/77    Left:145/73 
Height:5'3"     Weight:135 lbs

General: NAD, WGWN
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] grade ______ 
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+ [x]
Extremities: Warm [x], well-perfused [x]  Edema [] none_
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: 2+  Left:2+
DP           Right: 2+  Left:2+
___           Right: 2+  Left:1+
Radial       Right: cath site  Left:2+

Carotid Bruit        Right:    Left:
no bruits

 
Pertinent Results:
___ 06:05AM BLOOD WBC-8.6 RBC-3.48*# Hgb-9.5* Hct-28.9* 
MCV-83 MCH-27.3 MCHC-32.8 RDW-15.0 Plt ___
___ 02:21AM BLOOD WBC-9.2 RBC-2.76*# Hgb-7.7*# Hct-23.6* 
MCV-86 MCH-28.0 MCHC-32.8 RDW-13.4 Plt ___
___ 06:05AM BLOOD Glucose-114* UreaN-11 Creat-0.7 Na-134 
K-4.4 Cl-98 HCO3-28 AnGap-12
___ 02:21AM BLOOD Glucose-120* UreaN-10 Creat-0.7 Na-138 
K-4.4 Cl-103 HCO3-26 AnGap-13

TTE ___
PREBYPASS 
No atrial septal defect is seen by 2D or color Doppler. Left 
ventricular wall thicknesses are normal. The left ventricular 
cavity size is normal. Regional left ventricular wall motion is 
normal. Overall left ventricular systolic function is normal 
(LVEF>55%). The right ventricular cavity is mildly dilated The 
aortic valve leaflets (3) are mildly thickened. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Mild (1+) mitral regurgitation is seen. 
POSTBYPASS
There is preserved biventricular systolic function. The MR is 
now trace. The study is otherwise unchanged from prebypass
 
Brief Hospital Course:
On ___ Mr. ___ underwent a coronary artery bypass graft 
times 5, left internal mammary artery to left anterior 
descending artery and saphenous vein grafts to diagonal 1, 
diagonal 2, obtuse marginal 1 and the posterior descending 
arteries performed by Dr. ___.  Please see the 
operative note for details.  He tolerated the procedure well and 
was transferred in critical but stable condition to the surgical 
intensive care unit.  He was extubated later that same day.  On 
post-operative day two he ___ transferred to the step down unit 
and his chest tubes and pacing wires were removed without 
incidence.  He was working with physical therapy and ambulating 
without difficulty.  His wounds were healing well and he was 
tolerating a full oral diet.  He was felt safe for discharge on 
POD #4 with ___ services.  All follow up appointments were 
advised.  

 
Medications on Admission:
ATENOLOL 50 mg Tablet Daily
HYDROCHLOROTHIAZIDE 25mg Daily 
LISINOPRIL 2.5 mg Daily
NITROGLYCERIN PRN
ASPIRIN 81 mg Daily
CAMPH-EUCALYPT-MEN-TURP-PET ___ VAPORUB]  once a day
OMEGA-3 FATTY ACIDS-VITAMIN E [FISH OIL] Dosage uncertain

 
Discharge Medications:
1. simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).
Disp:*60 Tablet(s)* Refills:*2*
2. omega-3 fatty acids     Capsule Sig: One (1) Capsule PO BID 
(2 times a day).
Disp:*60 Capsule(s)* Refills:*2*
3. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
4. ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).
Disp:*60 Tablet(s)* Refills:*2*
5. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
6. ibuprofen 400 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) for 14 days: take with food.
Disp:*42 Tablet(s)* Refills:*0*
7. tramadol 50 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.
Disp:*50 Tablet(s)* Refills:*0*
8. metoprolol tartrate 25 mg Tablet Sig: Three (3) Tablet PO TID 
(3 times a day).
Disp:*270 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary Artery Disease

 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with  oral analgesia
Incisions: 
Sternal - healing well, no erythema or drainage 
Leg Right/Left - healing well, no erythema or drainage. Edema 
 

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___

**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___